US04000143
A solution of 2-(o-nitrostyryl)pyridine (94.3 g., 0.42 mole) in 400 ml. of ethanol is reduced on a Parr hydrogenation apparatus employing 2 g. of 10% palladium on carbon catalyst to provide 2-(o-aminophenethyl)pyridine, m.p. 59°-61° C. The isolation of the pyridine product is carried out in the usual manner by collecting the catalyst and evaporating the ethanolic solvent.

reactant | 2-(o-nitrostyryl)pyridine | 0.42 mole, 94.3 g | [N+](=O)([O-])C1=C(C=CC2=NC=CC=C2)C=CC=C1 | C13H10N2O2
catalyst | palladium on carbon | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 2-(o-aminophenethyl)pyridine | NC1=C(CCC2=NC=CC=C2)C=CC=C1 | C13H14N2
